US08067447B2
To a stirred solution of 1H-indole-5-carbaldehyde (0.87 g, 6 mmol) in anhydrous DMF (10 mL) was added sodium hydride (60% dispersion in mineral oil, 0.36 g, 9 mmol) portionwise at 0° C. under argon. The reaction mixture was stirred at 0° C. for 10 min and rt for 20 min before dimethylcarbamic chloride was added dropwise at 0° C. After the reaction mixture was stirred at 0° C. for 10 min and rt for 2 hr, saturated ammonium chloride aqueous solution (10 mL) was added to quench the reaction. The reaction mixture was concentrated, diluted with water (10 mL) and extracted with dichloromethane (20 mL). The dichloromethane extract was dried (Na2SO4) and concentrated. Silica gel flash chromatography gave 5-formyl-N,N-dimethyl-1H-indole-1-carboxamide (1.3 g, 5.8 mmol, 97% yield) as a white solid, the NMR spectrum of which was consistent with the desired structure.

reactant | 1H-indole-5-carbaldehyde | 6 mmol, 0.87 g | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
reactant | sodium hydride | 9 mmol, 0.36 g | [H-].[Na+]
reactant | dimethylcarbamic chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-formyl-N,N-dimethyl-1H-indole-1-carboxamide | 5.8 mmol, 1.3 g, 97% yield | C(=O)C=1C=C2C=CN(C2=CC1)C(=O)N(C)C | C12H12N2O2
